US09085576B2
Step 3: N-[(1R,S),(5S,R),(6R,S)]-(5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)benzamide (28c rac)
To a solution of 2-(1-amino-2,2-difluoro-1-(3-fluoro-2-methylphenyl)ethyl)cyclopropanol (0.61 g, 2.487 mmol) in dry THF (10 mL) under nitrogen was added benzoyl isothiocyanate (0.7 ml, 5.20 mmol) dropwise and the reaction was stirred for 30 min. Diisopropylethylamine (1.731 ml, 9.95 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.954 g, 4.97 mmol) were added and the reaction stirred at room temperature for 1 hour and then warmed to 60° C. for another 12 hr. The reaction mixture was diluted with dichloromethane and water. The phases were mixed, separated, and the organic was evaporated to dryness under reduced pressure. The crude residue was purified via silica gel flash chromatography eluting with 0-30% ethyl acetate in hexane afforded the title compound N-(5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)benzamide (0.8 g, 2.137 mmol, 86% yield). LC/MS (ESI+) m/z=375.0 (M+H).

reactant | 2-(1-amino-2,2-difluoro-1-(3-fluoro-2-methylphenyl)ethyl)cyclopropanol | 2.487 mmol, 0.61 g | NC(C(F)F)(C1=C(C(=CC=C1)F)C)C1C(C1)O | C12H14F3NO
reactant | benzoyl isothiocyanate | 5.20 mmol, 0.7 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Diisopropylethylamine | 9.95 mmol, 1.731 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.97 mmol, 0.954 g | Cl.CN(CCCN=C=NCC)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(5-(difluoromethyl)-5-(3-fluoro-2-methylphenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)benzamide | 2.137 mmol, 0.8 g, 86% yield | FC(C1(N=C(OC2CC12)NC(C1=CC=CC=C1)=O)C1=C(C(=CC=C1)F)C)F | C20H17F3N2O2
